US06881733B1
3,3-dimethyl-4-(5-chlorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine hydrochloride
Beginning with 5-chloro-7-bromobenzofuran and 1-benzyl-3,3-dimethyl-4-oxopiperidine, 0.29 gm of the title compound were prepared essentially as described in EXAMPLE 5.

reactant | 5-chloro-7-bromobenzofuran | ClC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrClO
reactant | 1-benzyl-3,3-dimethyl-4-oxopiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
product | 3,3-dimethyl-4-(5-chlorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.29 gm | Cl.CC1(CNCC=C1C1=CC(=CC=2C=COC21)Cl)C | InChI=1S/C15H16ClNO.ClH/c1-15(2)9-17-5-3-13(15)12-8-11(16)7-10-4-6-18-14(10)12;/h3-4,6-8,17H,5,9H2,1-2H3;1H
